US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(3-bromobenzamide)
Prepared by a method analogous to that described for the preparation of Intermediate 1 from (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and 3-bromobenzoic acid; the compound was purified by chromatography on silica gel using ammoniated methanol/chloroform mixtures as the eluent. The compound was then dissolved in tetrahydrofuran, excess hydrogen chloride (1M solution in diethyl ether) was added, and the solution was evaporated and then recrystallised from methanol/diethyl ether to give the hydrochloride salt of the title compound as a colourless solid; MS (ES+) 309, 311 (MH+).

reactant | (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | 3-bromobenzoic acid | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(3-bromobenzamide) | N12C[C@@H](C(CC1)CC2)NC(C2=CC(=CC=C2)Br)=O | C14H17BrN2O
